US07495103B2
A mixture of 7-nitro-1,2,3,4-tetrahydro-quinoline (4.0 g, 5.61 mmol), Boc2O (1.29 g, 5.89 mmol) and DMAP (0.4 g) in CH2Cl2 was stirred at room temperature overnight. After diluted with water, the mixture was extracted with CH2Cl2. The combined organic layers were washed with NaHCO3 and brine, dried over Na2SO4 and concentrated to provide crude 7-nitro-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester that was used in the next step without further purification.

reactant | 7-nitro-1,2,3,4-tetrahydro-quinoline | 5.61 mmol, 4.0 g | [N+](=O)([O-])C1=CC=C2CCCNC2=C1 | C9H10N2O2
reactant | Boc2O | 5.89 mmol, 1.29 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.4 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 7-nitro-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(C=C12)[N+](=O)[O-] | C14H18N2O4
